US07872009B2
Step 2: Ethyl quinoline-3-carboxylate
In a sealable tube, concentrated sulfuric acid (32 □L) was added to a solution of potassium quinoline-3-carboxylate in ethanol (1 mL). The flask was sealed and heated at 85° C. for 24 h. The mixture was cooled to ambient temperature, basified with 1 M sodium carbonate (10 mL), and the product was extracted with dichloromethane (3×15 mL). The organic fractions were dried over sodium sulfate and concentrated. Purification of the product by flash column chromatography (10% to 20% EtOAc/hexane) afforded the title compound (292 mg, 1.45 mmol). MS m/z: 202 (M+1).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium quinoline-3-carboxylate | N1=CC(=CC2=CC=CC=C12)C(=O)[O-].[K+]
reactant | sodium carbonate | 1 M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1 mL | C(C)O | C2H6O
product | Ethyl quinoline-3-carboxylate | 1.45 mmol, 292 mg | N1=CC(=CC2=CC=CC=C12)C(=O)OCC | C12H11NO2
